US20010003741A1
Synthesis of (1S,2S) -2- (10-hydroxydecanoyl) amino-3-morpholino-1-phenyl-1-propanol
Methylene chloride (20 ml), 10-hydroxydecanoic acid (377 mg, 2.0 mmol), triethylamine (0.70 ml, 5.0 mmol) and EDC (580 mg, 3.0 mmol) were added to (1S,2S)-2-amino-3-morpholino-1-phenyl-1-propanol (472.0 mg, 2.0 mmol), followed by stirring overnight. Methylene chloride (100 ml) was added to the reaction solution. After washed with a saturated sodium hydrogen carbonate solution (50 ml), water (50 ml) and saturated brine (50 ml) successively, the organic layer was dried over sodium sulfate and filtered, and the solvent was evaporated under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform:ethanol=20:1) to obtain the title compound (508 mg, yield 62%) as colorless oil.

reactant | 10-hydroxydecanoic acid | 2.0 mmol, 377 mg | OCCCCCCCCCC(=O)O | C10H20O3
reactant | triethylamine | 5.0 mmol, 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | EDC | 3.0 mmol, 580 mg
reactant | (1S,2S)-2-amino-3-morpholino-1-phenyl-1-propanol | 2.0 mmol, 472.0 mg | N[C@H]([C@@H](O)C1=CC=CC=C1)CN1CCOCC1 | C13H20N2O2
solvent | Methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (1S,2S) -2- (10-hydroxydecanoyl) amino-3-morpholino-1-phenyl-1-propanol | 508 mg, yield 62% | OCCCCCCCCCC(=O)N[C@H]([C@@H](O)C1=CC=CC=C1)CN1CCOCC1 | C23H38N2O4
